datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([C:18]([C:19]([C:20]([C:21]([H:30])([H:31])[H:32])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])[H:9])([H:5])([H:6])[H:7].[H:8][C:17]([C:18]([C:19]([C:20]([C:21]([H:30])([H:31])[H:32])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23],43.5136
[C:0]([C:1]([O:2][H:7])([H:5])[H:6])([H:3])[H:4]>>[C:0]([C:1]([O:2][H:7])[H:6])([H:3])([H:4])[H:5],158.364
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[H:19])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])[H:9])([H:8])[C:14]([C:13]([H:16])([H:17])[H:18])([C:15]([H:20])([H:21])[H:22])[H:19])[H:7])([H:5])[H:6],20.8782
[S:0]([H:1])[H:2].[S:3]=[C:4][S:5][H:6]>>[H:1][C:4](=[S:3])[S:5][H:6].[S:0][H:2],5.0208
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[O:17][O:18][C:19](=[O:20])[H:21]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])[H:9])([H:5])([H:6])[H:7].[H:8][O:17][O:18][C:19](=[O:20])[H:21],61.96504
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([O:3][O:4][H:14])[C:5]([O:6][H:16])([O:7][O:8][H:17])[H:15])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([C:2]([H:11])([H:12])[H:13])([O:3][O:4][H:14])[C:5]([O:6][H:16])([H:15])[O:7]1.[O:8][H:17],77.15296
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])[H:13])[H:12])([H:10])[H:11].[C:20]([C:21](=[C:22]([H:26])[H:27])[H:25])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])([H:13])[C:20]([C:21](=[C:22]([H:26])[H:27])[H:25])([H:23])[H:24])[H:12])([H:10])[H:11],50.208
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[C:15]([C:16](=[S:17])[H:21])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[H:21])[H:8])([H:6])[H:7].[C:15]([C:16]=[S:17])([H:18])([H:19])[H:20],100.416
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:30][H:31]>>[C:0]([C:1]([C:2]([C:3]([C:4]1[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:19][O:30][H:31],-11.100152
[C:0](#[C:1][H:3])[H:2].[c:4]1[c:5]([H:16])[c:6]2[c:7]3[c:8]([c:9]([H:17])[c:10]([H:18])[c:11]([H:19])[c:12]3[c:13]1[H:20])[C:14]([H:21])=[C:15]2[H:22]>>[C:0](=[C:1][H:3])([H:2])[c:4]1[c:5]([H:16])[c:6]2[c:7]3[c:8]([c:9]([H:17])[c:10]([H:18])[c:11]([H:19])[c:12]3[c:13]1[H:20])[C:14]([H:21])=[C:15]2[H:22],13.229808
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:11])[H:10])([H:8])[H:9].[C:18](=[C:19][C:20]([H:23])([H:24])[H:25])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])([H:11])[C:19](=[C:18]([H:21])[H:22])[C:20]([H:23])([H:24])[H:25])[H:10])([H:8])[H:9],-5.8576
[C:0]([C:1]([O:2][H:7])[H:6])([H:3])([H:4])[H:5].[O:8]>>[C:0]([C:1](=[O:2])[H:6])([H:3])([H:4])[H:5].[H:7][O:8],0.0
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[H:8])([H:6])[H:7].[C:16]([C:17]([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])([H:24])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[C:17]([C:16]([H:24])([H:25])[H:26])([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])[H:8])([H:6])[H:7],46.3587
[H:3].[O:0]([S:1])[H:2]>>[H:2][H:3].[O:0][S:1],0.0
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]=[C:11]([C:12]([H:16])([H:17])[H:18])[C:13]([H:19])([H:20])[H:21])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:11]([C:10]=[C:9]([H:14])[H:15])([C:12]([H:16])([H:17])[H:18])[C:13]([H:19])([H:20])[H:21])[H:4],49.6222
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[C:18]([C:19]([C:20]([H:25])([H:26])[H:27])[C:21]([H:28])([H:29])[H:30])([H:22])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])([H:11])[C:19]([C:18]([H:22])([H:23])[H:24])([C:20]([H:25])([H:26])[H:27])[C:21]([H:28])([H:29])[H:30])[H:10],8.20064
